US08349865B2
Step 2: N-(2,6-Dichloro-4-ethynylphenyl)-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine
To a solution of N-{2,6-dichloro-4-[(trimethylsilyl)ethynyl]phenyl}-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine (118 mg, 0.25 mmol) in methanol (3 mL) was added K2CO3 (38.4 mg, 0.28 mmol) and stirred at room temperature overnight. The solvents were evaporated and the residue was diluted with ethyl acetate and washed with water followed by brine. The organic layer was dried with sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound.

reactant | N-{2,6-dichloro-4-[(trimethylsilyl)ethynyl]phenyl}-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | 0.25 mmol, 118 mg | ClC1=C(C(=CC(=C1)C#C[Si](C)(C)C)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OC | C23H20Cl2N4OSi
reactant | K2CO3 | 0.28 mmol, 38.4 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | N-(2,6-Dichloro-4-ethynylphenyl)-10-methoxypyrido[4,3-c]-1,6-naphthyridin-6-amine | ClC1=C(C(=CC(=C1)C#C)Cl)NC1=NC2=CC=NC=C2C2=C1C=CN=C2OC | C20H12Cl2N4O
